US07696352B2
N-((1-(4-(2-Amino-N-methylacetamido)phenyl)-1H-1,2,3-triazol-4-yl)methyl)-5-chlorothiophene-2-carboxamide (21)
The mixture of 5-chloro-N-((1-(4-iodophenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide (100 mg, 0.22 mmol), H-Gly-NHMe.HCl (110 mg, 0.88 mmol), CuI (42 mg, 0.22 mmol), N,N′-dimethylethylenediamine (24 μL, 0.22 mmol), cesium carbonate (440 mg, 1.4 mmol) in 5 mL dioxane in a sealed tube was stirred for 15 hrs at 120° C. The title compound was isolated directly from the reaction mixture using reverse phase prep HPLC. MS found for C17H17ClN6O2S (M+H)+ 405.1, 407.1 (Cl pattern).

reactant | 5-chloro-N-((1-(4-iodophenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide | 0.22 mmol, 100 mg | ClC1=CC=C(S1)C(=O)NCC=1N=NN(C1)C1=CC=C(C=C1)I | C14H10ClIN4OS
reactant | H-Gly-NHMe.HCl | 0.88 mmol, 110 mg | NCC(=O)NC.Cl
reactant | N,N′-dimethylethylenediamine | 0.22 mmol, 24 μL | CNCCNC | C4H12N2
reactant | cesium carbonate | 1.4 mmol, 440 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.22 mmol, 42 mg | [Cu]I
product | N-((1-(4-(2-Amino-N-methylacetamido)phenyl)-1H-1,2,3-triazol-4-yl)methyl)-5-chlorothiophene-2-carboxamide | NCC(=O)N(C)C1=CC=C(C=C1)N1N=NC(=C1)CNC(=O)C=1SC(=CC1)Cl | C17H17ClN6O2S
